US06777428B1
4-[3-(3-fluorobenzamidyl)benzoyl]-1-methylpiperidine
A mixture of 4-[3-aminobenzoyl]-1-methylpiperidine (25 mg, 0.115 mmol) and (piperidinomethyl)-polystyrene (50 mg, 0.130 mmol) in tetrahydrofuran (1 mL) was allowed to stand for 5 min. 3-fluorobenzoyl chloride (28 μL, 0.229 mmol) and tetrahydrofuran (1 mL) were added to the reaction mixture. The reaction mixture was mixed for 18 h at ambient temperature. The reaction mixture was filtered and the filter cake was rinsed with methanol. Glacial acetic acid (0.5 mL) was added to the filtrate solution and allowed to stand for 5 min. This mixture was poured over a Varian Mega Bond Elut™ strong cation exchange column. The column was rinsed with methanol to remove impurities, then treated with a 7M ammonia in methanol to elute the product from the column. The solvent was evaporated to give 43 mg (>100%) of the title compound.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.115 mmol, 25 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | (piperidinomethyl)-polystyrene | 0.130 mmol, 50 mg | C1CCNCC1 | C5H11N
reactant | 3-fluorobenzoyl chloride | 0.229 mmol, 28 μL | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4-[3-(3-fluorobenzamidyl)benzoyl]-1-methylpiperidine | 43 mg, >100% | FC=1C=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C=CC1 | C20H21FN2O2
